US04287341
2-(3-n-Hexylpyrrolidin-1-yl)-4-amino-6-chloro-7,8-dimethoxyquinazoline
A mixture of 0.1 mole of 2-methylmercapto-4-amino-6-chloro-7,8-dimethoxyquinazoline and 0.12 mole of 3-n-hexylpyrrolidine in isoamyl alcohol is heated at reflux for 16 hours, cooled, washed with water and the organic phase is concentrated in vacuo. Hexane is slowly added to the residue and the solid title compound is collected and purified, if desired by silica gel column chromatography.

reactant | 2-methylmercapto-4-amino-6-chloro-7,8-dimethoxyquinazoline | 0.1 mole | CSC1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | C11H12ClN3O2S
reactant | 3-n-hexylpyrrolidine | 0.12 mole | C(CCCCC)C1CNCC1 | C10H21N
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-(3-n-Hexylpyrrolidin-1-yl)-4-amino-6-chloro-7,8-dimethoxyquinazoline | C(CCCCC)C1CN(CC1)C1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | C20H29ClN4O2
